US04990511
To solution (15 ml) of 2,4-dibenzyloxyphenyl acetic acid (760 mg) and 1-benzylpiperazine (440 mg) in N,N-dimethylformamide are added triethylamine (0.6 ml) and diethyl cyanophosphate (420 mg) at 5° C. under stirring and stirring is continued for 15 minutes. To the reaction solution is added water and the product is extracted with dichloromethane. The dichloromethane layer is washed with water and dried. The solvent is distilled off to yield 1-(2,4-dibenzyloxyphenylacetyl)-4-benzylpiperazine (968 mg).

reactant | 2,4-dibenzyloxyphenyl acetic acid | 15 ml, 760 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CC(=O)O | C22H20O4
reactant | 1-benzylpiperazine | 440 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphate | 420 mg | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(2,4-dibenzyloxyphenylacetyl)-4-benzylpiperazine | 968 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CC(=O)N1CCN(CC1)CC1=CC=CC=C1 | C33H34N2O3
